US09278944B2
To a solution of N-{1-[4-(3-methoxypropoxy)-1-benzofuran-6-yl]ethyl}-cyclopropanamine (200 mg) and (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (240 mg) in N,N-dimethylformamide (7 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (212 mg) and 1-hydroxybenzotriazole (140 mg) under ice-cooling, and then stirred at room temperature for 18 hours. To the reaction mixture was added aqueous saturated sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water, 10% aqueous citric acid solution and saturated saline, and then concentrated under reduced pressure to give tert-butyl (2R)-2-[(cyclopropyl{1-[4-(3-methoxypropoxy)-1-benzofuran-6-yl]ethyl}amino)carbonyl]morpholine-4-carboxylate [Ex(161-1)] (306 mg) as a yellow oil.

reactant | N-{1-[4-(3-methoxypropoxy)-1-benzofuran-6-yl]ethyl}-cyclopropanamine | 200 mg | COCCCOC1=CC(=CC2=C1C=CO2)C(C)NC2CC2 | C17H23NO3
reactant | (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 240 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 212 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 140 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | tert-butyl (2R)-2-[(cyclopropyl{1-[4-(3-methoxypropoxy)-1-benzofuran-6-yl]ethyl}amino)carbonyl]morpholine-4-carboxylate | 306 mg | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C(C)C1=CC2=C(C=CO2)C(=C1)OCCCOC | C27H38N2O7
